US08557872B2
Step 6: Synthesis of 3-(2-propoxy-4-trifluoromethyl-phenyl)-acrylic acid
3-(2-Propoxy-4-trifluoromethyl-phenyl)-acrylic acid methyl ester (198 mg) was reacted with 1N LiOH (5 ml) in THF (10 ml) and CH3OH (5 ml) for 1 hr. The reaction mixture was concentrated in vacuo. Water (30 ml) was added to the resulting residue, which was neutralized with 1N HCl solution. The mixture was extracted with ethyl acetate (30 ml×3). The combined organic layer was dried over MgSO4. The filterate was concentrated in vacuo to yield title compound (136 mg, 72%).

reactant | 3-(2-Propoxy-4-trifluoromethyl-phenyl)-acrylic acid methyl ester | 198 mg | COC(C=CC1=C(C=C(C=C1)C(F)(F)F)OCCC)=O | C14H15F3O3
reactant | LiOH | 1N, 5 ml | [Li+].[OH-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | CH3OH | 5 ml | CO | CH4O
product | 3-(2-propoxy-4-trifluoromethyl-phenyl)-acrylic acid | 136 mg, 72% | C(CC)OC1=C(C=CC(=C1)C(F)(F)F)C=CC(=O)O | C13H13F3O3
